US08008506B2
(R)-tert-butyl 6-(2-(benzyl-(2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-chlorophenyl)-2-(triethylsilyloxy)ethyl)amino)ethoxy)-3-ethylindazole-1-carboxylate
Tert-butyl 3-ethyl-6-hydroxyindazole-1-carboxylate (27.9 mg) that can be produced by the method described in Reference Example 14 or the like, and a (R)-tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate-toluene solution [0.5 mL; solution prepared by dissolving (R)-tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate (1.5265 g) that can be produced by the method described in Reference Example 75 or the like in dehydrated toluene (10 mL)] were dissolved in dehydrated toluene (0.5 mL), and triphenylphosphine (54.9 mg; manufactured by Wako Pure Chemical Industries, Ltd.) and TMAD (41.4 mg; manufactured by Masuda Chemical Industries, Co., Ltd.) were added to the solution. The mixture was stirred for 3 days at room temperature. The reaction solution was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=85:15→64:36), and thus the title compound (85.6 mg) was obtained.

reactant | (R)-tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate toluene | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)S(=O)(=O)C)Cl)CCO.C1(=CC=CC=C1)C
reactant | (R)-tert-butyl 5-(2-(benzyl(2-hydroxyethyl)amino)-1-(triethylsilyloxy)ethyl)-2-chlorophenyl(methylsulfonyl)carbamate | 1.5265 g | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)S(=O)(=O)C)Cl)CCO | C29H45ClN2O6SSi
reactant | triphenylphosphine | 54.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | TMAD | 41.4 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-butyl 6-(2-(benzyl-(2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-4-chlorophenyl)-2-(triethylsilyloxy)ethyl)amino)ethoxy)-3-ethylindazole-1-carboxylate | 85.6 mg | C(C1=CC=CC=C1)N(CCOC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)CC)C[C@H](O[Si](CC)(CC)CC)C1=CC(=C(C=C1)Cl)N(S(=O)(=O)C)C(=O)OC(C)(C)C | C43H61ClN4O8SSi
